US06458780B1
Sodium hydride (31 mg) was added to a solution of 0.24 g of 7-formylaminoacetylimidazo[5,1-b]thiazole in 4 ml of DMF. The mixture was stirred at 60° C. for 30 min, and cooled to room temperature. Thereafter, 176 mg of methyl iodide was added thereto. The mixture was stirred for one hr. Dichloromethane was added to the reaction mixture. The mixture was washed with water and saturated brine in that order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation. The residue was purified by column chromatography on silica gel (dichloromethane:methanol=20:1) to give 0.12 g of 7-(2-formylaminopropionyl)imidazo[5,1-b]thiazole.

reactant | Sodium hydride | 31 mg | [H-].[Na+]
reactant | 7-formylaminoacetylimidazo[5,1-b]thiazole | 0.24 g | C(=O)NCC(=O)C=1N=CN2C1SC=C2 | C8H7N3O2S
reactant | methyl iodide | 176 mg | CI | CH3I
reactant | Dichloromethane | ClCCl | CH2Cl2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 7-(2-formylaminopropionyl)imidazo[5,1-b]thiazole | 0.12 g | C(=O)NC(C(=O)C=1N=CN2C1SC=C2)C | C9H9N3O2S
